Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a very nice ___ YO ___ genleman with 
HIV, HCV (last CD4 1 month ago ~520) with diziness. He was in 
his prior state of health until yesterday afternoon, when he was 
pushing a bed at work and started feeling dizzy. Patient states 
that there was diaphoresis and blurry vision associated with the 
episode. Pt. states he felt he was going to pass out. He sat 
down and felt better. Pt felt his neoropathy symptoms 
(parestesias in elbows), but more intense as well. Pt denies, 
fever, chills, fotofobia, sphincter relaxation, frequency, 
abnormal movements, aura or vertigo. He also states he felt very 
weak and had trouble getting home due to weakness and diziness. 
He was able to sleep and was at baseline in the morning. He 
started his regular activities and symptoms recurred, and 
increased in intesity. He saw his primary care and was sent to 
our ER.

 
Past Medical History:
Cholelithiasis
Colonic Polyps
Hep C cirrhosis (Genotype 1, Stage III-IV fibrosis)
Chronic Renal Insufficiency
Anemia of Chronic Disease
HIV+ (since ___
Bilateral Cataracts
Scrotal Varicocele/Hydrocele
Erectile Dysfunction
Peripheral Neuropathy
G6PD defeciency
?h/o TB ___ - while working at ___, treated for 9 mos 
RPR + in ___ treated 
HIV (last viral load 1 month ago undetectable and CD4 ~520); 
Most likely patient got it through sexual activity
HCV (on treatment);
Paresthesias in arms; controled with amytriptilin PRN
h/o remote blood transfusion; pt does not remember the 
indication
 
Social History:
___
Family History:
Brother had TB; Mother had "cardiomegaly," brother also had 
"cardiomegaly" no family history of CAD.

 
Physical Exam:
Physical Exam
Temp 97.9 HR 78 BP 170/78 RR 18 SpO2 100% RA
.
General: NAD, A&Ox3, pleasant, lying in bed
HEENT: PEERLA, normal eye movenent, no conjuntival injection
Neck: supple, no bruits, normal thyroid, no masses, JVD 4 cm
Chest: CTAB
Heart: SEM ___ leaning forward only; no r/g
Abdomen: No HSM, non-tender, non-distended, regular BS
Extremities: palpable pulses, increased in strength, no edema, 
normal range of movement.
Neurologic: normal craneal nerves, normal anal sphincter tone, 
normal gait, no romberg, no abnormal nistagmus.
 
Pertinent Results:
On Admission:
___ 12:30PM   WBC-4.2 RBC-3.58* HGB-10.8* HCT-34.2* MCV-96 
MCH-30.3 MCHC-31.7 RDW-12.6
___ 12:30PM   NEUTS-30.6* BANDS-0 LYMPHS-58.5* MONOS-6.7 
EOS-3.8 BASOS-0.4
___ 12:30PM   HYPOCHROM-1+ ANISOCYT-NORMAL POIKILOCY-NORMAL 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL
___ 12:30PM   PLT SMR-LOW PLT COUNT-117*
___ 12:30PM   CK-MB-4
___ 12:30PM   cTropnT-<0.01
___ 12:30PM   CK(CPK)-224*
___ 12:30PM   GLUCOSE-70 UREA N-11 CREAT-1.4* SODIUM-142 
POTASSIUM-4.8 CHLORIDE-107 TOTAL CO2-28 ANION GAP-12
___ 04:25PM CEREBROSPINAL FLUID (CSF)  WBC-1 RBC-0 POLYS-0 
___ ___ 04:25PM CEREBROSPINAL FLUID (CSF)  PROTEIN-36 
GLUCOSE-56 LD(LDH)-27

EKG: Sinus rhythm. Non-specific slight ST segment elevation in 
leads I, aVL, V1-V4. Non-specific T wave flattening in leads III 
and aVL.

CXR: No acute cardiopulmonary process.

HEAD CT W/O CONTRAST:
1. No intracranial hemorrhage or mass effect. 
2. Mild atrophy. 
3. Nonspecific white matter hypodensity in both cerebral 
hemispheres, may 
reflect chronic microvascular ischemia, but HIV encephalopathy 
is also a 
consideration. MRI of the brain may be beneficial for further 
evaluation of the extent white matter abnormality.

ETT: Average functional exercise capacity. Non-specific ECG 
changes in the absence of anginal type symptoms to achieved 
workload. 
Blunted heart rate response to exercise.

Echo: The patient exercised for 9 minutes and 30 seconds 
according to a Modified ___ treadmill protocol ___ METS) 
reaching a peak heart rate of 105 bpm and a peak blood pressure 
of 184/80 mmHg. The test was stopped because of fatigue. This 
level of exercise represents an average exercise tolerance for 
age. In response to stress, the ECG showed non-diagnostic ST 
changes (see exercise report for details). There was a blunted 
heart rate response to stress. The blood pressure response to 
exercise was normal. 
Resting images were acquired at a heart rate of 64 bpm and a 
blood pressure of 128/68 mmHg. These demonstrated mild symmetric 
left ventricular hypertrophy with normal regional and global 
left ventricular systolic function. Doppler demonstrated trace 
aortic regurgitation with no aortic stenosis or significant 
mitral regurgitation or resting LVOT gradient. 
Echo images were acquired within 50 seconds after peak stress at 
heart rates of 108 - 98 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments with slight 
decrease in cavity size. There was augmentation of right 
ventricular free wall motion
Average functional exercise capacity. Non-specific ECG changes 
with no 2D echocardiographic evidence of inducible ischemia to 
achieved workload. Abnormal hemodynamic response to physiologic 
stress. Trace aortic regurgitation at rest. Suboptimal study. 
Target HR not achieved.

MRI:
1. Hyperintense periventricular and subcortical white matter 
bilaterally. 
Given the patient's age, this may represent small vessel 
ischemic disease. 
However, given the patient's past medical history, HIV 
encephalopathy is not excluded. 
2. No foci of abnormal enhancement. 
3. Diffuse cortical atrophy, likely age-related. 
4. Posterior disc herniation at C4-C5 seen to indent the spinal 
cord, a 
followup cervical spine MR study is recommended for complete 
characterization.

 
Brief Hospital Course:
In our ER he arrived with a BP of 151/88, HR 82, T 97.9, RR 16, 
SaO2100%. Pt had an Iv put in and received labetalol 10mg IV x1. 
He had a CXR that did not show any acute pathology and a CT scan 
negative for hemorrhage, but some non-specific white matter 
lesions. A neurology consult was called. Neurology do not think 
this is a stroke. Patient was admitted to medicine for further 
workup.

In the floor patient's SBP was 150-180, so labetalol 200mg TID 
was started. Patient's BP responded adequatelly to this. Patient 
was put in telemetry, where there were no abnormalities found.

Mr. ___ had an MRI of the brain, which showed hyperintense 
periventricular and subcortical white matter bilaterally, 
suggesting small vessel ischemid disease, which did not look 
like HIV encephalopathy or PML. However, this cannot be ruled 
out.

Patient was without any chest pain during hospitalization and BP 
was 120/80 during remaining of hospitalization. Negative cardiac 
enzymes x2. Patient had a stress test, but did not achieve goal 
HR (Pt on labetalol). Since the BP change was so sudden and 
patient with adequate follow up as outpatient and has not known 
hypertension, secondary causes for hypertension were worked up. 
Patient had 24-hour metanephrins ordered.

Patient was discharged home with follow up with his primary care 
within the next day.
 
Medications on Admission:
EPIVIR 300 mg PO daily
SUSTIVA 600 mg PO daily
Ziagen 600 mg PO daily
Prilosec 40 mg PO daily
Multivitamins
 
Discharge Medications:
1. Labetalol 200 mg Tablet Sig: One (1) Tablet PO twice a day.  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Efavirenz 600 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. LaMIVudine 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Abacavir 300 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pre-syncopal epysode

 
Discharge Condition:
Stable, breathing comfortably on room air.

 
Discharge Instructions:
You were seen at the ___ due to diziness. In the ER you were 
found to be hypertensive up to the 170s and you were given 
medicines to keep your blood pressure down. Neurology saw you 
and thought you were not having a stroke; you also had a CT of 
your head that did not show any bleeding or old stroke.
You were admitted to medicine for fuerther workup. You had a MRI 
of your head, because of some ___ in the CT, 
that were not clearly seen. The MRI corroborated those lesions, 
which need to be followed clinically. Your echocardiogram and 
stress test showed that your heart does not have any anatomical 
abnormalities or abormalities in movement.
We ordered cardiac enzymes and EKG, which were also negative for 
ischemia (heart attack).
We are ready to go home; however, if you feel chest pain, 
sweating again, worsening diziness, spining around, fever, 
chills or any other thing that concerns you please come back to 
the ER.
Since your blood pressure was suddengly high, with prior good 
measurements, we got concerned for a condition called 
pheochromocytoma that could expalin this symptoms. We asked for 
a test called "metanephrins" in urine. We will ask you to colect 
the urine of 24h and bring it back.
Also, we recommend to have your lipids checked within the next  
year by your primary care. ___ show him this information.
 
Followup Instructions:
___